US04518597
6-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-4-isopropyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 6-hydroxy-4-isopropyl-4H-3,1-benzoxazin-2-one and 4-(3,4-dichloro-phenylsulfinyl)-butylbromide.

reactant | 6-hydroxy-4-isopropyl-4H-3,1-benzoxazin-2-one | OC=1C=CC2=C(C(OC(N2)=O)C(C)C)C1 | C11H13NO3
reactant | 4-(3,4-dichloro-phenylsulfinyl)-butylbromide | ClC=1C=C(C=CC1Cl)S(=O)CCCCBr | C10H11BrCl2OS
product | 6-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-4-isopropyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)S(=O)CCCCOC=1C=CC2=C(C(OC(N2)=O)C(C)C)C1 | C21H23Cl2NO4S
